US09303023B2
1-(2-(Indolin-1-yl)ethyl)-1H-pyrazol-4-amine
To a solution of 1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline (183 mg, 0.71 mmol) in EtOAc (0.7 mL, degassed) and EtOH (2 mL, degassed), PtO2 (14 mg, 0.07 mmol) was added and the reaction mixture was stirred at rt under a H2-atmosphere for 18 h. The mixture was diluted with EtOH, filtered over celite and the filter cake was rinsed with EtOH. The filtrate was concentrated to obtain the title compound as an oil, which was used in the next step without further purification. LC-MS conditions A: tR=0.51 min, [M+H]+=229.26.

reactant | 1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline | 0.71 mmol, 183 mg | [N+](=O)([O-])C=1C=NN(C1)CCN1CCC2=CC=CC=C12 | C13H14N4O2
solvent | EtOAc | 0.7 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | PtO2 | 0.07 mmol, 14 mg | O=[Pt]=O
product | 1-(2-(Indolin-1-yl)ethyl)-1H-pyrazol-4-amine | N1(CCC2=CC=CC=C12)CCN1N=CC(=C1)N | C13H16N4
